US04631081
3-Cyano-2-ethoxy-4,6-dimethylpyridine was prepared by reacting 3-cyano-4,6-dimethylpyrid-2-one with triethyloxonium tetrafluoroborate in dichloromethane.

reactant | 3-cyano-4,6-dimethylpyrid-2-one | C(#N)C=1C(NC(=CC1C)C)=O | C8H8N2O
reactant | triethyloxonium tetrafluoroborate | F[B-](F)(F)F.C(C)[O+](CC)CC
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-Cyano-2-ethoxy-4,6-dimethylpyridine | C(#N)C=1C(=NC(=CC1C)C)OCC | C10H12N2O
